US07723347B2
2-Fluoro-N-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine
115 mg (0.29 mmol) of N-(2-fluoro-4-nitrophenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine are dissolved in 10 ml of a mixture of ethanol/THF (1:1). 13 mg (0.06 mmol) of platinum(IV) oxide are added, and the mixture is stirred under an atmosphere of hydrogen under atmospheric pressure overnight. The suspension is then filtered through Celite and the solvent is removed under reduced pressure.

reactant | N-(2-fluoro-4-nitrophenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | 0.29 mmol, 115 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)N(C=C2)COCC[Si](C)(C)C | C19H23FN4O3Si
solvent | ethanol THF | C(C)O.C1CCOC1
catalyst | platinum(IV) oxide | 0.06 mmol, 13 mg | [Pt](=O)=O
product | 2-Fluoro-N-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | FC1=C(C=CC(=C1)N)NC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C19H25FN4OSi
